US06218576B1
Synthesis of bis(4-diphenylaminophenyl)amine (I-17)
In a 500-ml four-necked flask were charged 68 ml of tridecane (boiling point: 234° C.) as a solvent and 130.2 g (0.50 mol) of 4-diphenylaminoaniline, followed by the addition of 15.4 g (0.138 mol) of anhydrous calcium chloride and 18.5 g (0.138 mol) of anhydrous aluminum chloride under stirring. The resulting mixture was reacted at 210 to 220° C. for 3 hours under a nitrogen atmosphere. After cooling, the reaction mixture was added with 114 ml of toluene, followed by charging in 144 g of ice water. The resulting mixture was stirred and allowed to stand, and then the resulting water layer was separated out. The organic layer was washed successively with 90 ml of a 5% aqueous solution of hydrochloric acid, 60 ml of a 5% aqueous solution of sodium bicarbonate and 60 ml of water. After removal of the organic solvent by distillation under reduced pressure, 72 ml of isopropyl alcohol was added to the residue and the mixture was crystallized overnight at −3 to −8C. The resulting crude crystals were collected by filtration, washed with 27 ml of isopropyl alcohol and then dried, whereby 84.2 g (yield: 66.9%) of the title compound was obtained as pale yellow crystals. As a result of HPLC. analysis (column: YMC-A-312, detection UV: 280 nm, flow rate: 1.0 ml/min, eluent: methanol/tetrahydrofuran=99/1), the compound was found to have a purity of 99.7%.

reactant | 4-diphenylaminoaniline | 0.50 mol, 130.2 g | C1(=CC=CC=C1)N(C1=CC=C(N)C=C1)C1=CC=CC=C1 | C18H16N2
reactant | calcium chloride | 0.138 mol, 15.4 g | [Cl-].[Ca+2].[Cl-]
reactant | aluminum chloride | 0.138 mol, 18.5 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | toluene | 114 ml | C1(=CC=CC=C1)C | C7H8
solvent | tridecane | 68 ml | CCCCCCCCCCCCC | C13H28
product | bis(4-diphenylaminophenyl)amine | 84.2 g, yield: 66.9% | C1(=CC=CC=C1)N(C1=CC=C(C=C1)NC1=CC=C(C=C1)N(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C36H29N3
